US08114868B2
(R)-6-allyl-6-(4-fluorophenyl)-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one (18 mg, 0.039 mmol), 3-bromo-2-hydroxypyridine (14 mg, 2 equiv), Pd(dppf)Cl2 (3 mg, 10% mol), 2M aq Na2CO3 solution (800 μL) and 1,4-dioxane (1.5 mL) were mixed. The mixture was evacuated and refilled with N2 gas (3×) before being heated overnight at 85° C. After being cooled to rt, the mixture was filtered and acidified with 5% aq HCl solution before being purified by prep HPLC to afford (R)-6-allyl-6-(4-fluorophenyl)-3-((S)-1-(4-(2-oxo-1,2-dihydropyridin-3-yl)phenyl)ethyl)-1,3-oxazinan-2-one (7.2 mg, 43% yield). LC-MS

reactant | (R)-6-allyl-6-(4-fluorophenyl)-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one | 0.039 mmol, 18 mg | C(C=C)[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=C(C=C1)F | C27H33BFNO4
reactant | 3-bromo-2-hydroxypyridine | 14 mg, 2 equiv | BrC=1C(=NC=CC1)O | C5H4BrNO
reactant | Na2CO3 | 2M, 800 μL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(dppf)Cl2 | 3 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | (R)-6-allyl-6-(4-fluorophenyl)-3-((S)-1-(4-(2-oxo-1,2-dihydropyridin-3-yl)phenyl)ethyl)-1,3-oxazinan-2-one | 7.2 mg, 43% yield | C(C=C)[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C=1C(NC=CC1)=O)C1=CC=C(C=C1)F | C26H25FN2O3
